US05783704
4-(Pyridin-3-ylmethyleneamino)-5-methyl-1,2,4-triazol-3-one (Compound 1.273 in Table 1)
A mixture of 5.7 g of 4-amino-5-methyl-1,2,4-triazol-3-one and 100 ml of alcohol is heated to the reflux temperature and 5.4 g of pyridine-3-carbaldehyde and 2 drops of 6N hydrochloric acid are added thereto. After 14 hours under reflux the reaction mixture is cooled to 20°. The product that has precipitated is then filtered off with suction and dried under a high vacuum. 3.4 g of the title compound having a melting point of 208°-210° are obtained.

reactant | 4-amino-5-methyl-1,2,4-triazol-3-one | 5.7 g | NN1C(NN=C1C)=O | C3H6N4O
reactant | pyridine-3-carbaldehyde | 5.4 g | N1=CC(=CC=C1)C=O | C6H5NO
catalyst | hydrochloric acid | 6N, 2 drops | Cl | ClH
product | 4-(Pyridin-3-ylmethyleneamino)-5-methyl-1,2,4-triazol-3-one | N1=CC(=CC=C1)C=NN1C(NN=C1C)=O | C9H9N5O
